US05134145
Ethyl 2,4,4,4-tetrafluoro-3-oxobutanoate (81 g.) in toluene (60 ml) was stirred and heated to 70° C. whereupon ammonia gas was bubbled in until an uptake of 6.8 g. was recorded. The reaction was then set for reflux and water removed azeotropically. Approximately 10 ml of water was removed. After cooling, the solvent was removed under reduced pressure and the residue distilled to give ethyl 3-amino-2,4,4,4-tetrafluoro-2-butenoate b.p. 79°-86° C./20 mm, 44 g.

reactant | Ethyl 2,4,4,4-tetrafluoro-3-oxobutanoate | 81 g | FC(C(=O)OCC)C(C(F)(F)F)=O | C6H6F4O3
reactant | ammonia | N | H3N
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-amino-2,4,4,4-tetrafluoro-2-butenoate | NC(=C(C(=O)OCC)F)C(F)(F)F | C6H7F4NO2
